US20010044435A1
2-oxo-3-oxa-9-azaspiro[5.5]undecane is prepared by catalytic hydrogenation of 9-benzyloxycarbonyl-2-oxo-3-oxa-9-azaspiro[5.5]undecane in ethanol in the presence of palladium on activated carbon (10% Pd) (the product must be reacted further immediately after careful evaporation). Mass spectrum (ESI+): m/z 170 [M+H]+.

reactant | 9-benzyloxycarbonyl-2-oxo-3-oxa-9-azaspiro[5.5]undecane | C(C1=CC=CC=C1)OC(=O)N1CCC2(CCOC(C2)=O)CC1 | C17H21NO4
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on activated carbon | [Pd] | Pd
product | 2-oxo-3-oxa-9-azaspiro[5.5]undecane | O=C1CC2(CCO1)CCNCC2 | C9H15NO2
